US06812246B2
To a solution of 7-(acetoxymethyl)-5-amino-2-[4-(chloroacetamido)-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one (1.00 g, 2.20 mmol) in dimethylformamide (50 mL) was added sodium azide (715 mg, 11 mmol), and the mixture was stirred at room temperature for 1 hour. Water was added thereto, and the crystals precipitated were collected by filtration to afford 7-(acetoxymethyl)-5-amino-2-[4-(azidoacetamido)-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one (1.01 g, 100%).

reactant | 7-(acetoxymethyl)-5-amino-2-[4-(chloroacetamido)-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one | 2.20 mmol, 1.00 g | C(C)(=O)OCC1=C(C2=C(C(C=C(O2)C2=CC(=C(C=C2)NC(CCl)=O)F)=O)C(=C1F)N)F | C20H14ClF3N2O5
reactant | sodium azide | 11 mmol, 715 mg | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 7-(acetoxymethyl)-5-amino-2-[4-(azidoacetamido)-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one | 1.01 g, 100% | C(C)(=O)OCC1=C(C2=C(C(C=C(O2)C2=CC(=C(C=C2)NC(CN=[N+]=[N-])=O)F)=O)C(=C1F)N)F | C20H14F3N5O5
